US08049029B2
Preparation of 3-bromo-1-(3-chloro-2-pyridinyl)-N-[4-cyano-2-methyl-6-[(methylamino)carbonyl]phenyl]-1H-pyrazole-5-carboxamide (a Compound of Formula 5)
To a mixture of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid (see PCT Patent Publication WO 2003/015519 for a method of preparation) (97.4% purity, 15 g, 0.049 mol) and 2-amino-5-cyano-N,3-dimethylbenzamide (see PCT Patent Publication WO 2006/62978 for a method of preparation) (10.0 g, 0.0525 mol) in acetonitrile (80 mL) was added 3-picoline (13.9 g, 0.148 mol). The mixture was cooled to 15 to 20° C., and then methanesulfonyl chloride (8.2 g, 0.071 mol) was added dropwise. After 1 h, water (37.3 g) was added dropwise to the reaction mixture while maintaining the temperature at 15 to 20° C. The mixture was heated at 45 to 50° C. for 30 minutes, and then cooled to 15 to 25° C. for 1 h. The mixture was filtered, and the solids collected were washed with acetonitrile-water (approximately a 5:1 mixture, 2×10 mL) and acetonitrile (2×10 mL), and then dried under nitrogen to afford the title compound (24.0 g, 93.6% corrected yield based on an assay of 91.6%) as an off-white solid.

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 2-amino-5-cyano-N,3-dimethylbenzamide | NC1=C(C(=O)NC)C=C(C=C1C)C#N | C10H11N3O
reactant | 3-picoline | 0.148 mol, 13.9 g | N1=CC(=CC=C1)C | C6H7N
reactant | methanesulfonyl chloride | 0.071 mol, 8.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | water | 37.3 g | O | H2O
product | 3-bromo-1-(3-chloro-2-pyridinyl)-N-[4-cyano-2-methyl-6-[(methylamino)carbonyl]phenyl]-1H-pyrazole-5-carboxamide | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC)C#N)C)C1=NC=CC=C1Cl | C19H14BrClN6O2
